US08729104B2
Step A: Preparation of ethyl 4-(2,2-dimethylpropanoyl)benzoate (i-1a)
4-(Ethoxycarbonyl)phenyl-zinc iodide (50.0 mL of a 0.5 M solution in THF, 25.0 mmol) was added slowly via cannula to a stirred solution of dichlorobis(triphenylphosphine)palladium(II) (484 mg, 0.690 mmol) in THF (50 mL) at 0° C. After 15 min, trimethylacetyl chloride (2.80 mL, 22.7 mmol) was added and the resulting mixture was stirred at 0° C. for 1.5 h. The reaction mixture was poured into 1 N HCl and extracted three times with EtOAc. The combined organic extracts were washed with water, brine, dried (MgSO4) and concentrated in vacuo. Purification of the crude residue by flash chromatography on silica gel (gradient elution; 0-10% EtOAc/hexanes as eluent) afforded the title compound i-1a. 1HNMR (500 MHz, CDCl3): δ 8.08 (d, 2H, J=8.5 Hz), 7.67 (d, 2H, J=8.5 Hz), 4.42 (q, 2H, J=7.2 Hz), 1.42 (t, 3H, J=7.2 Hz), 1.36 (s, 9H).

reactant | 4-(Ethoxycarbonyl)phenyl-zinc iodide | [I-].C(C)OC(=O)C1=CC=C(C=C1)[Zn+]
reactant | trimethylacetyl chloride | 22.7 mmol, 2.80 mL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | HCl | 1 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.690 mmol, 484 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethyl 4-(2,2-dimethylpropanoyl)benzoate | CC(C(=O)C1=CC=C(C(=O)OCC)C=C1)(C)C | C14H18O3
